US05385996
α-(Bromomethyl)styrene was treated with an equimolar ratio of triethylphosphite at reflux for 1 h. After the mixture was cooled to room temperature, the by-product, ethyl bromide, was removed under reduced pressure, and the product α-(diethoxyphosphorylmethyl)styrene was obtained in quantitative yield as a yellowish syrup: 1H NMR (CDCl3) δ 1.20 (6H, t, 2×OCH2CH3, J 7.5 Hz), 3.05 (2H, d, CH2P(O), J 22.5 Hz), 4.00 (4H, m, 2×OCH2CH3), 5.35 (1H, d, olefinic proton, J 6.0 Hz), 5.50 (1H, d, olefinic proton, J 6 Hz), 7.25-7.55 (5H, m, aromatic protons).

reactant | α-(Bromomethyl)styrene | BrCC(=C)C1=CC=CC=C1 | C9H9Br
reactant | triethylphosphite | C(C)OP(OCC)OCC | C6H15O3P
product | α-(diethoxyphosphorylmethyl)styrene | quantitative yield | C(C)OP(=O)(OCC)CC(=C)C1=CC=CC=C1 | C13H19O3P
